US08202865B2
Intermediate 22: 4-(3,5-dimethylisoxazol-4-yl)-3-methylbenzoic acid
Methyl 4-bromo-3-methylbenzoate (Intermediate 17, step 1) (4 g; 17.46 mmol; 1 eq.), 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)isoxazole (4.28 g; 19.21 mmol; 1.10 eq.), potassium carbonate (12.07 g; 87.31 mmol; 5 eq.), tetrakis(triphenylphosphine)palladium(0) (2.02 g; 1.75 mmol; 0.10 eq.) were taken in Toluene (20 mL) and water (20 mL) under N2 atmosphere. The reaction mixture was degassed with N2 and then refluxed for 4 hours. The reaction mixture was cooled to RT, filtered over a pad of celite and washed with toluene (200 mL). The filtrate was concentrated to afford a brown oil which was taken up in EtOAc (250 mL). The organic layer was washed with a saturated aqueous solution of NaHCO3 solution (100 mL), water (100 mL) and brine (100 mL), dried over MgSO4 and concentrated affording methyl 4-(3,5-dimethylisoxazol-4-yl)-3-methylbenzoate (4.2 g, 99%, HPLC (Method A) Rt 3.93 min) as an orange solid, which was used without further purification. A solution of methyl 4-(3,5-dimethylisoxazol-4-yl)-3-methylbenzoate (3 g; 12.23 mmol; 1 eq.) in EtOH (90 mL) at RT was treated with sodium hydroxide (7.34 mL; 5 M; 36.69 mmol; 3 eq.). The reaction mixture was stirred at 60° C. for 1 hour. The reaction mixture was concentrated to give a brown solid which was taken up in water (100 mL) and the aqueous phase was washed twice with EtOAc. The aqueous phase was acidified with HCl cc to pH 2. Then it was concentrated until precipitation (volume divided by 2). The suspension was filtered affording the title compound as a brown solid. It was washed with diethyl ether affording the title compound as a beige solid. 1H NMR (DMSO-d6, 300 MHz) δ 13.03 (br s, 1H), 7.95 (s, 1H), 7.86-7.84 (dd, J=7.88, 1.31 Hz, 1H), 7.34-7.32 (d, J=7.88 Hz, 1H), 2.26 (s, 3H), 2.19 (s, 3H), 2.07 (s, 3H). HPLC (Method A) Rt 3.13 min (Purity: 97.1%).

reactant | methyl 4-(3,5-dimethylisoxazol-4-yl)-3-methylbenzoate | 12.23 mmol, 3 g, 1 eq. | CC1=NOC(=C1C1=C(C=C(C(=O)OC)C=C1)C)C | C14H15NO3
reactant | sodium hydroxide | 36.69 mmol, 5 M, 7.34 mL, 3 eq. | [OH-].[Na+]
solvent | EtOH | 90 mL | CCO | C2H6O
solvent | water | 100 mL | O | H2O
product | 4-(3,5-dimethylisoxazol-4-yl)-3-methylbenzoic acid | CC1=NOC(=C1C1=C(C=C(C(=O)O)C=C1)C)C | C13H13NO3
